US06432952B1
4-N,N-Dimethylaminomethyl-5-formyl-1,2,3-triazole
The piperidine adduct (62.1 g, 87 wt %, 54.0 g assay, 0.117 mol) was slurried in IPA/water (98:2, 365 mL). TFA (26.7 g, 18.0 mL, 0.234 mol) was added over 10 minutes maintaining the temperature at 20-25° C. The triazole aldehyde was liberated during the pH adjustment. The product crystallized from the reaction mixture.

reactant | piperidine | 0.117 mol, 62.1 g | N1CCCCC1 | C5H11N
reactant | TFA | 0.234 mol, 18.0 mL, 26.7 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triazole aldehyde | N1N=NC(=C1)C=O | C3H3N3O
solvent | IPA water | 365 mL | CC(C)O.O
product | 4-N,N-Dimethylaminomethyl-5-formyl-1,2,3-triazole | CN(C)CC1=NNN=C1C=O | C6H10N4O
